US05250527
Thionyl chloride (3 ml) in chloroform (25 ml) was added dropwise to a solution of 4 -morpholino-3 -chloro-2 -hydroxymethylpyridine (3.09 g) in chloroform (25 ml) cooled in an ice/salt bath. Following the addition the ice bath was removed and the mixture stirred for a further 1.5 hours. The volume of the solution was reduced and ether added to give 4 -morpholino-3 -chloro-2 -chloromethylpyridine hydrochloride, 3.77 g, m.p. 200°-2°.

reactant | Thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4 -morpholino-3 -chloro-2 -hydroxymethylpyridine | 3.09 g | O1CCN(CC1)C1=C(C(=NC=C1)CO)Cl | C10H13ClN2O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 4 -morpholino-3 -chloro-2 -chloromethylpyridine hydrochloride | Cl.O1CCN(CC1)C1=C(C(=NC=C1)CCl)Cl | InChI=1S/C10H12Cl2N2O.ClH/c11-7-8-10(12)9(1-2-13-8)14-3-5-15-6-4-14;/h1-2H,3-7H2;1H
